Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Demerol
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
Bronchoscopy

 
History of Present Illness:
This is an ___ yo M with history of mild dementia, possible 
diastolic dysfunction, who is admitted with subjective shortness 
of breath. The patient has been complaining to his outpatient 
provider about dyspnea, cardiac work up has been negative, so a 
CT chest was ordered. There was no PE, however, there was 
evidence of a large pulmonary mass with evidence of bony 
metastasis. He is admitted for further
work up and evaluation. Of note, the family has requested that 
they tell the patient on their terms of his diagnosis, so at the 
time of this admission note, the patient is unaware of the CT 
findings.

In the ED, initial VS were stable, with respiratory rate < 18. 
On the floor, the patient continues to be stable with complaints 
ofmild dyspnea, which he notes is worse with exertion, 
especially with stair
climbing. He says this has been going on for months. He also 
notes a dry cough for about that long. He denies unintentional 
weight loss, anorexia, nightsweats or other B symptoms. He 
denies sick contacts, fevers/chills or URI symptoms.

ROS:
(+) Per HPI
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied chest pain or tightness, palpitations. Denied 
nausea, vomiting, diarrhea, constipation or abdominal pain. No 
recent change in bowel or bladder habits. No dysuria. Denied 
arthralgias or myalgias.
 
Past Medical History:
gastroesophageal reflux disease
hypercholesterolemia
s/p LGIB with discovery of large colonic lipoma at hepatic 
flexure that was removed by right transverse colectomy in ___
transurethral resection of prostate
TIA in ___
Frequent UTI's
Left shoulder impingement syndrome/full thickness rotator cuff 
tear
 
Social History:
___
Family History:
strong family history of diabetes mellitus, and 
hypercholesterolemia. His sister deceased of ___ at age 
___. Question of renal disease in the family.
 
Physical Exam:
VS: T 98.6max, 97.3current, BP ___, HR 79 RR 18, 02sat 97% on 
2L
GEN: NAD, resting comfortably watching TV in chair, NC 02 on.
HEENT: Pupils unequel, R, RRL, Left surgical pupil. No 
injections, no icterus. OP wnl. Neck supple, nontender, no JVD, 
no bruits.
PULM: mild dry cough, Bibasilar rales 112 way up back, no focal 
findings.
CARD: RRR, s 1, s2 wnl, no mlrlg
ABD: obese, firm, nontender, BS+, midline surgical scar, old.
EXT: DP 1 +, 2+pitting edema up to knees
NEURO: CNII-XI1 intact. A+Ox3, poor memory.
PSYCH: appropriate affect
 
Pertinent Results:
___ 01:30PM BLOOD WBC-15.1* RBC-4.32* Hgb-13.1* Hct-38.3* 
MCV-89 MCH-30.4 MCHC-34.2 RDW-13.9 Plt ___
___ 06:45AM BLOOD WBC-13.8* RBC-3.98* Hgb-12.1* Hct-35.4* 
MCV-89 MCH-30.5 MCHC-34.3 RDW-14.5 Plt ___
___ 05:00AM BLOOD WBC-11.1* RBC-3.83* Hgb-11.5* Hct-34.0* 
MCV-89 MCH-30.0 MCHC-33.8 RDW-14.4 Plt ___
___ 01:30PM BLOOD Neuts-54 Bands-9* ___ Monos-11 
Eos-2 Baso-0 Atyps-1* Metas-3* Myelos-0
___ 01:30PM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-1+ 
Macrocy-NORMAL Microcy-NORMAL Polychr-1+ Schisto-1+
___ 01:30PM BLOOD PTT-24.2
___ 01:30PM BLOOD Plt Smr-LOW Plt ___
___ 08:00PM BLOOD ___ PTT-24.3 ___
___ 06:45AM BLOOD Plt ___
___ 05:00AM BLOOD Plt ___
___ 01:30PM BLOOD D-Dimer-4038*
___ 01:30PM BLOOD UreaN-41* Creat-1.4* Na-139 K-4.1 Cl-97 
HCO3-29 AnGap-17
___ 06:45AM BLOOD Glucose-90 UreaN-42* Creat-1.4* Na-139 
K-4.2 Cl-98 HCO3-29 AnGap-16
___ 05:00AM BLOOD Glucose-106* UreaN-47* Creat-1.3* Na-139 
K-4.3 Cl-96 HCO3-30 AnGap-17
___ 01:30PM BLOOD ALT-370* AST-342* CK(CPK)-139 
AlkPhos-136* TotBili-1.0 DirBili-0.7* IndBili-0.3
___ 06:45AM BLOOD ALT-394* AST-396* ___ 
AlkPhos-145* TotBili-1.5
___ 06:45AM BLOOD Lipase-168*
___ 01:30PM BLOOD CK-MB-4 cTropnT-0.04* proBNP-146
___ 01:30PM BLOOD TotProt-6.5 Albumin-4.0 Globuln-2.5 
Calcium-9.9
___ 06:45AM BLOOD Albumin-3.9 Calcium-10.0 Phos-4.9* Mg-2.6
___ 05:00AM BLOOD Calcium-9.6 Phos-4.5 Mg-2.6

___ ECG: Sinus tachycardia. Right bundle-branch block. T 
wave abnormalities.
Since the previous tracing of ___ the rate is faster. 
Clinical correlation
is suggested.

___ CT-Chest w/contrast, CT-ABD/PELV:
INDICATION: Shortness of breath, chest pain, malaise, fatigue.
COMPARISON: None.
TECHNIQUE: Contrast-enhanced MDCT-acquired axial images of the 
chest,
abdomen, and pelvis from the thoracic inlet to the pubic 
symphysis.
Multiplanar reformatted images were obtained.
CT OF THE CHEST WITH INTRAVENOUS CONTRAST: A 4.1 x 2.8 x 3.7 cm 
mass-like
consolidation in the posterior right lower lobe, with associated 
right hilar
and mediastinal lymphadenopathy is worrisome for malignancy. The 
largest
lymph node is located in the lower right paratracheal station 
(3:28) 3.2 x 3.0
cm; subcarinal station (3:43) 4.4 x 2.8 cm and right hilum 
(3:39) 3.1 x 1.9
cm. There is no pleural or pericardial effusion. Dense 
atherosclerotic
calcification is seen involving the aortic arch. The heart size 
is normal.
The central pulmonary arteries are opacified normally without 
evidence of
filling defect. Attenuation of the subsegmental branches of the 
right lower
lobe pulmonary arteries on the early study, which is less 
conspicuous on the
delayed images is most likely related to perfusion abnormality 
resulting from
compression of the vessel by lymphadenopathy.
CT OF THE ABDOMEN WITH INTRAVENOUS CONTRAST: The liver shows 
numerous ill-
defined hypodense lesions scattered throughout the liver, 
worrisome for
metastatic disease. The spleen, adrenal glands, and pancreas are 
normal.
The kidneys enhance and excrete contrast symmetrically. Numerous 
hypodensities
are identified in both kidneys. The largest in the upper pole of 
the right
kidney measures 2.3 cm and in the lower pole of the left kidney 
measures 2.2
cm and most consistent with cysts; the remainder are too small 
to
characterize.
The intra-abdominal loops of large and small bowel maintain a 
normal caliber
without evidence of obstruction. Note is made of a small 
duodenal
diverticulum (6:45). Post- surgical changes related to resection 
of a colonic
lipoma are identified adjacent to the proximal right colon.
The abdominal aorta maintains a normal caliber. Aortic 
atherosclerotic
calcification is moderate. The celiac axis, SMA, and ___ are 
patent. There
is no lymphadenopathy, free air or free fluid.
CT OF THE PELVIS WITH INTRAVENOUS CONTRAST: The bladder, rectum, 
and pelvic
loops of small bowel are normal. The prostate is enlarged and 
measures 6.5
cm. There is sigmoid diverticulosis without evidence of 
diverticulitis. Note
is made of a fat-containing right inguinal hernia. There is no 
free fluid or
lymphadenopathy.
BONE WINDOWS: No suspicious lytic or sclerotic lesion is 
identified. Mild
degenerative changes are seen involving the thoracolumbar lumbar 
spine.
 
IMPRESSION:
1. A 4.1 x 2.8 cm mass-like consolidation in the posterior 
aspect of the
right lower lobe, with associated right hilar and mediastinal 
lymphadenopathy
suggests primary lung malignancy with metastases.
2. Innumerable ill-defined hypodensities scattered throughout 
the liver
consistent with metastatic disease.
3. No evidence of pulmonary embolus. Slight attenuation of the 
subsegmental
pulmonary arteries involving the right lower lobe likely relates 
to perfusion
abnormality secondary to compression of the proximal pulmonary 
artery by
enlarged lymph nodes.
4. Numerous hypodense lesions in the kidneys, the largest of 
which are most
consistent with cysts. The remainder are too small to 
characterize.
5. Post-surgical changes in the region of the proximal right 
colon,
consistent with history of resection of colonic lipoma.
6. Scattered colonic diverticulosis without evidence of 
diverticulitis.

___ Pathology
Cytology ReportPRECARINAL LNProcedure Date of ___
  
REPORT APPROVED ___
SPECIMEN ___    ___    PRECARINAL LN
 
SPECIMEN DESCRIPTION: Received bloody specimen in Cytolyt.
  Prepared 1 ThinPrep slide.
 
CLINICAL DATA: ___ y/o with tobacco abuse, RLL mass and
  mediastinal lymphadenopathy.
PREVIOUS BIOPSIES:
___ SUBCARINAL LN
REPORT ___. ___
 
___: FNA, Precarinal lymph node:

  POSITIVE FOR MALIGNANT CELLS, consistent with metastatic
  small cell carcinoma.

___
Cytology ReportSUBCARINAL LNProcedure Date of ___
  
REPORT APPROVED ___
SPECIMEN ___    ___    SUBCARINAL LN
 
SPECIMEN DESCRIPTION: Received bloody specimen in Cytolyt.
  Prepared 1 ThinPrep slide.
 
CLINICAL DATA: ___ y/o with tobacco abuse, RLL mass and
  mediastinal lymphadenopathy.
REPORT ___. ___
 
___: FNA, Subcarinal lymph node:
  
  POSITIVE FOR MALIGNANT CELLS, consistent with metastatic
  small cell carcinoma.
  
  Note: Drs. ___ and ___ were notified of the
  results via email on ___ by Dr. ___.
DIAGNOSED BY:
___, CT(___)
___, M.D.

___ Pathology
ytology ReportBRONCHIAL WASHINGSProcedure Date of ___
  
REPORT APPROVED ___
SPECIMEN ___    ___    BRONCHIAL WASHINGS
 
SPECIMEN DESCRIPTION: Received 25ml pink fluid.
  Prepared 1 ThinPrep slide.
  BAL RLL specimen.
 
CLINICAL DATA: ___ y/o with tobacco abuse, RLL mass and
  mediastinal lymphadenopaty.
PREVIOUS BIOPSIES:
___ BRONCHIAL BRUSHINGS
___ SUBCARINAL LN
REPORT ___. ___
 
___: Bronchial BAL RLL:
  
  NEGATIVE FOR MALIGNANT CELLS.
  
  Pulmonary macrophages, squamous cells, and bronchial
  epithelial cells.
  
  Note: Drs. ___ and ___ were notified of the
  results via email on ___ by Dr. ___.
DIAGNOSED BY:
___, CT(___)
___, M.D.

___ ECHO
Impression:
The left atrium is elongated. Left ventricular wall thicknesses 
are normal. The left ventricular cavity size is normal. Left 
ventricular systolic function is hyperdynamic (EF 80%). Right 
ventricular chamber size and free wall motion are normal. The 
aortic root is mildly dilated at the sinus level. The aortic 
valve leaflets (3) are mildly thickened but aortic stenosis is 
not present. Trace aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. There is no mitral valve 
prolapse. Trivial mitral regurgitation is seen. There is mild 
pulmonary artery systolic hypertension. There is no pericardial 
effusion. 

___ CT Head: 
INDICATION: ___ man with new lung mass and likely liver 
mets, history
of CVA, TIA symptoms in ___, to evaluate for large mass, mets.
 
COMPARISON: CT of the head done on ___.
 
TECHNIQUE: Non-contrast CT of the head was performed.
 
FINDINGS:
 
There is a small, 0.8 x 1.3 cm hyperdense extra-axial lesion in 
the right
inferior frontal lobe, adjacent to the coronal suture, causing 
mild
indentation on the adjacent portion of the sylvian fissure. No 
large area of
surrounding edema is noted. There is no hyperostosis of the 
adjacent bone.
This is not definitely identifiable on the prior study of ___, 
although a
subtle focus is not excluded on that study. Prominent areas of 
ossification
from the inner table of the frontal bones can represent areas of 
hyperostosis
or less likely ossified lesions. (series 2, image 16), slightly 
more prominent
on the present study and may relate to the differences in the
gantry angulation.
The ventricles and extra-axial CSF spaces are unremarkable. 
Atherosclerotic
vascular calcifications are noted in the cavernous carotid 
arteries. The
visualized portions of the paranasal sinuses are unremarkable.
 
IMPRESSION:
1. 0.8 x 1.3 cm hyperdense extra-axial lesion in the right 
inferior frontal
region, which can represent a meningioma; other dural-based 
neoplasms like
metastasis, or lymphoma. Further evaluation with MR of the head 
without and
with IV contrast is necessary, for better assessment and to 
exclude other
lesions. Given the lack of history of trauma, hematoma is less 
likely but not
completely excluded. No surrounding mass effect.
 
Findings and recommendations were discussed with ___ by Dr. 
___ on
___, around 4 p.m.
 
Brief Hospital Course:
___ year old  male with complaints of dyspnea and malaise, found 
to have a large mass in the posterior aspect of the right lower 
lobe with hilar lymphadenopathy and evidence of liver 
metastasis. He was admitted to the medical service in stable 
condition. He had evidence of mild fluid overload and underwent 
gentile diuresis. A bronchoscopy was performed to assess the 
lung mass.

# Pulmonary mass - likely primary malignancy with evidence 
already of lymphatic and bony mets. Calcium is stable. Pt 
underwent bronchoscopy on ___ showing LNs positive for 
malignant cells consistent with metastatic small cell carcinoma. 
Given the likely presence of liver metastases, an MRI was 
ordered, but despite premedication, he was not able to tolerate 
the procedure. After discussion with his family, an outpatient 
MRI will be scheduled at a facility with an open MRI. A head CT 
was performed on ___ to assess for large mets (last HD CT 
___ and showed a 1. 0.8 x 1.3 cm hyperdense extra-axial lesion 
in the right inferior frontal region that will need to be 
further assess on MRI. A cardiac ECHO was also perfomred on 
___ showing an EF of 80% and no evidence of a pericradial 
effusion. Followup for his new malignancy was planned with 
Thoracic Oncology. He continued to have an oxygen requirement in 
the hospital and home services of supplemental oxygen were 
arranged.

# Transaminitis - Elevated LFTs on admission. Unclear etiology, 
but given findings on CT scan, is likely secondary to metastatic 
invasion of the liver. He had no abdominal pain or tenderness. 
His LFTs were trended and remained relatively stable over his 
hospital admission. His statin was held.

# Edema, possibly secondary to diastolic failure, however, his 
ECHO did not show evidence of failure. He was diuresed with some 
improvement of his symptoms. He was discharged home on lasix.

# Acute Renal Failure - Baseline creatinine had previously been 
1.0, and was 1.4 at admission. He did not appear dry and his 
cardiac ECHO did not show significant failure. He was diuresed 
gentely, and his Cr improved slightly to 1.3 prior to discharge. 
He was discharged on a lower dose of lasix and will follow up 
with his primary care physician.
 
Medications on Admission:
Travaprost
Lipitor
ASA ___
MVI
 
Discharge Medications:
1. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
2. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Travatan  Ophthalmic
4. home oxygen by nasal cannula
O2 at 2L NC continuous. Titrate as needed for O2Sat > 92. ___ 
MD for O2 sat < 90. 
Conserving device for portable.
5. Lasix 20 mg Tablet Sig: Two (2) Tablet PO once a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Lung mass
Acute renal failure
Hypoxia

 
Discharge Condition:
Stable, for home with services.

 
Discharge Instructions:
You were admitted to the hospital because of your symptoms of 
shortness of breath and because of the findings of a mass on 
your CT scan of your lungs. The CT scan also showed changes to 
your liver that may be related to the mass in your lung.

Your blood work showed some worsening of your kidney function, 
which improved somewhat during your stay. Your diuretics (water 
pills) were stopped becuase of your kidney function. You were 
restarted on a lower dose of lasix, and should discuss returning 
to your regular dose with your PCP.

You had a bronchoscopy in order to diagnose the mass in your 
lung. The results will take several days and you will need to 
follow up with Thoracic Oncology to discuss the results.

You also had an echocardiogram to examine your heart function 
that did not show any heart failure as a cause for your 
shortness of breath.

You had a head CT-scan which showed a small abnormal finding 
that needs to be followed up by MRI. You should discuss the 
scheduling of an outpatient open-MRI with your PCP ___ 
Thoracic Oncology.

You continued to require oxygen while in the hospital and will 
need to continue using oxygen at home. Home services for oxygen 
were arranged for you.

Your lipitor was stopped due to the elevation of your liver 
blood tests. Please discuss restarting this medication with your 
PCP at your followup visit.

Please ___ your doctor or go to the ER for:
-chest pain
-worsening shortness of breath
-fever or shaking chills
-severe HA
-severe nausea or vomitting
-changes in mental status or lethargy
-any new or concerning symptoms

 
Followup Instructions:
___